US06537948B1
0.4 g of sodium hydride was added to a mixture of 1.59 g of 4-chloro-6-methoxy-2-methylthiopyrimidine, 0.98 g of methyl glycolate and 10 ml of N,N-dimethylformamide at 0° C. The mixture was stirred at room temperature for 5 hours, then, the reaction solution was poured into water, and extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 1.22 g of 6-methoxy-4-(methoxycarbonyl)methoxy-2-methylthiopyrimidine.

reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 4-chloro-6-methoxy-2-methylthiopyrimidine | 1.59 g | ClC1=NC(=NC(=C1)OC)SC | C6H7ClN2OS
reactant | methyl glycolate | 0.98 g | C(CO)(=O)OC | C3H6O3
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-methoxy-4-(methoxycarbonyl)methoxy-2-methylthiopyrimidine | 1.22 g | COC1=CC(=NC(=N1)SC)OCC(=O)OC | C9H12N2O4S
